US04704459
In 4 ml of methylene chloride was dissolved 270 mg of anhydrous piperazine, and 400 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate was added to the resulting solution, after which the resulting mixture was subjected to reaction with ice-cooling for 1 hour. To the reaction mixture were added 20 ml of ethyl acetate and 10 ml of water, and the organic layer was separated, washed successively with 10 ml of saturated aqueous sodium hydrogencarbonate solution and 10 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystlaline material thus obtained was added 5 ml of diethyl ether, after which crystals were collected by filtration to obtain 250 mg (yield 91.2%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylate having a melting point of 208°-211° C.

reactant | piperazine | 270 mg | N1CCNCC1 | C4H10N2
reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate | 400 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)F)=O)C(=O)OCC | C32H33F3N2O6S
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylate | 250 mg, yield 91.2% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)OCC | C21H19F3N4O3
